US08497381B2
Step 2: [6-Hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
A solution of [6-methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester (0.740 g, 1.41 mmol) in hydrogen bromide (3 mL) and acetic acid (3 mL) was stirred at 100° C. overnight. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | [6-methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | 1.41 mmol, 0.740 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C29H28F3NO5
solvent | hydrogen bromide | 3 mL | Br | BrH
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | [6-Hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | OC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C26H22F3NO5
